US09387200B2
b) 3-Methyl-isothiazole-4,5-dicarboxylic acid dimethyl ester
A solution of 5-Methyl-[1,3,4]oxathiazol-2-one (37.94 mmol) and dimethylacetylenedicarboxylate (75.89 mmol) in chlorobenzene (22.3 mL) was refluxed with stirring for 6 h before the mixture was concentrated in vacuo. Distillation of the residue gave the desired product (4.38 g) at by 100-105° C. (1.0 Torr) as an oil: MS (m/z) 216.0 (M+1).

reactant | 5-Methyl-[1,3,4]oxathiazol-2-one | 37.94 mmol | CC1=NSC(O1)=O | C3H3NO2S
reactant | dimethylacetylenedicarboxylate | 75.89 mmol | COC(=O)C#CC(=O)OC | C6H6O4
solvent | chlorobenzene | 22.3 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 3-Methyl-isothiazole-4,5-dicarboxylic acid dimethyl ester | 4.38 g | COC(=O)C=1C(=NSC1C(=O)OC)C | C8H9NO4S
